US08278331B2
4-Fluoro-2-methyl-phenol (25 g, 0.2 mol) was added to a solution of sodium hydroxide (9.7 g, 0.24 mol) in water (160 mL) and the resultant solution was cooled to 0° C. Methyl chloroformate (24.2 g, 0.26 mol) was added dropwise at 0° C. At the completion of the reaction, the pH was adjusted to pH 8 with saturated aqueous Na2CO3 and then the mixture was extracted with ethyl acetate (3×300 mL). The combined organic extracts were washed with water and brine, dried (MgSO4) and concentrated under reduced pressure to provide carbonic acid 4-fluoro-2-methyl-phenyl ester methyl ester (30 g, 82% yield). 1H NMR (300 MHz, DMSO-d6): δ 7.22-7.13 (m, 2H), 7.05 (m, 1H), 3.81 (s, 3H), 2.12 (s, 3H).

reactant | 4-Fluoro-2-methyl-phenol | 0.2 mol, 25 g | FC1=CC(=C(C=C1)O)C | C7H7FO
reactant | sodium hydroxide | 0.24 mol, 9.7 g | [OH-].[Na+]
reactant | Methyl chloroformate | 0.26 mol, 24.2 g | ClC(=O)OC | C2H3ClO2
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 160 mL | O | H2O
product | carbonic acid 4-fluoro-2-methyl-phenyl ester methyl ester | 30 g, 82% yield | COC(OC1=C(C=C(C=C1)F)C)=O | C9H9FO3
